US07863450B2
A solution of methyl 1-benzyl-4-({4-[3-(2-methylpyrrolidin-1-yl)propoxy]benzoyl}amino)piperidine-4-carboxylate ax60 (0.93 g, 1.89 mmol) in dry tetrahydrofurane (20 ml) is cooled to 0° C. and lithium borohydride (1.4 ml, 2.83 mmol, 2 M in tetrahydrofurane) is added dropwise. The mixture is then stirred at room temperature overnight. The reaction mixture is then cooled to 0° C. and water (1.4 ml) and 1 N sodium hydroxide (1.4 ml) are added. After stirring for 20 minutes at 20° C., the mixture is concentrated and the residue is taken up in acetone (30 ml). The solution is cooled to 0° C., then 1 N hydrochloric acid (9.45 ml, 9.45 mmol) is added and the mixture is stirred at room temperature for 1 hour and concentrated to afford a pink oil. This oil is taken up in dichloromethane and treated with a saturated solution of potassium carbonate to reach pH 10. Dichloromethane is removed under reduced pressure and the aqueous phase is extracted twice with ethyl acetate. The combined organic extracts are dried over magnesium sulfate, filtered and concentrated to give 0.63 g of N-[1-benzyl-4-(hydroxymethyl)piperidin-4-yl]-4-[3-(2-methylpyrrolidin-1-yl)propoxy]benzamide ax62.

reactant | methyl 1-benzyl-4-({4-[3-(2-methylpyrrolidin-1-yl)propoxy]benzoyl}amino)piperidine-4-carboxylate | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OC)NC(C1=CC=C(C=C1)OCCCN1C(CCC1)C)=O | C29H39N3O4
reactant | lithium borohydride | 2.83 mmol, 2 M, 1.4 ml | [BH4-].[Li+]
reactant | sodium hydroxide | 1 N, 1.4 ml | [OH-].[Na+]
reactant | hydrochloric acid | 9.45 mmol, 1 N, 9.45 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofurane | 20 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 1.4 ml | O | H2O
product | N-[1-benzyl-4-(hydroxymethyl)piperidin-4-yl]-4-[3-(2-methylpyrrolidin-1-yl)propoxy]benzamide | 0.63 g, Yield: 72% | C(C1=CC=CC=C1)N1CCC(CC1)(CO)NC(C1=CC=C(C=C1)OCCCN1C(CCC1)C)=O | C28H39N3O3
